US05508408
Example 13: 4-[3-(8-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
3-(8-fluoro-2-quinolinylmethoxy)nitrobenzene: 0.67 g of 3-nitrophenol and 1.15 g of 2-bromomethyl-8-fluoroquinoline are dissolved in 110 ml of ethyl methyl ketone; 3.3 g of potassium carbonate and 0.8 g of potassium iodide are added and the batch is heated under reflux for 3 hours. After cooling, removing the solid by filtration and evaporating the solvent in vacuo, 100 ml of dichloromethane are added to the residue, the batch is washed with water (twice, 20 ml each time), dried over sodium sulfate, filtered and freed of the solvent in vacuo to give the title compound in the form of pale yellow crystals of m.p. 128°-129° after recrystallisation from dichloromethane/hexane.

reactant | 3-(8-fluoro-2-quinolinylmethoxy)nitrobenzene | FC=1C=CC=C2C=CC(=NC12)COC=1C=C(C=CC1)[N+](=O)[O-] | C16H11FN2O3
reactant | 3-nitrophenol | 0.67 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2-bromomethyl-8-fluoroquinoline | 1.15 g | BrCC1=NC2=C(C=CC=C2C=C1)F | C10H7BrFN
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.8 g | [I-].[K+]
solvent | ethyl methyl ketone | 110 ml | CC(=O)CC | C4H8O
product | 4-[3-(8-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | FC=1C=CC=C2C=CC(=NC12)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C24H25FN2O4
